US04558059
Synthesis of 2-(3,4,5-trimethoxyphenyl)-4-methylthiazole-5-methylcarboxamide
Into a mixture of 80 ml of 40% solution of methylamine and 420 ml of ethanol, 16.9 g of ethyl 2-(3,4,5-trimethoxyphenyl)-4-methylthiazole-5-carboxylate which had been prepared by heating a mixture of 3,4,5-trimethoxybenzamide, phosphorus pentasulfide, ethyl α-chloroacetoacetate and n-butylalcohol under a reflux condenser for 5 hours was dissolved and the solution was left for 10 days at room temperature. Then the solution was condensed to solid under a reduced pressure. The thus obtained residue was recrystallized from an aqueous ethanolic solution to obtain the object as colourless minute aciculate melting at 177.5° to 179.5° C. in an amount of 10.5 g corresponding to the yield of 60%.

reactant | methylamine | CN | CH5N
reactant | ethyl 2-(3,4,5-trimethoxyphenyl)-4-methylthiazole-5-carboxylate | 16.9 g | COC=1C=C(C=C(C1OC)OC)C=1SC(=C(N1)C)C(=O)OCC | C16H19NO5S
reactant | 3,4,5-trimethoxybenzamide | COC=1C=C(C(=O)N)C=C(C1OC)OC | C10H13NO4
reactant | phosphorus pentasulfide | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | ethyl α-chloroacetoacetate | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
solvent | n-butylalcohol | C(CCC)O | C4H10O
solvent | ethanol | 420 ml | C(C)O | C2H6O
product | 2-(3,4,5-trimethoxyphenyl)-4-methylthiazole-5-methylcarboxamide | yield of 60% | CC1=C(SC(=N1)C2=CC(=C(C(=C2)OC)OC)OC)C(=O)NC | C15H18N2O4S
